US05607898
A 300-ml three-necked flask was charged with 55 ml (55 mmol, 3 equivalents) of a 1M solution of magnesium methyl bromide (MeMgBr) and 100 ml of tetrahydrofuran (THF), and the mixture was cooled with ice under nitrogen current. To this mixture was dropwise added a solution of 5.0 g (18.4 mmol) of 6-bromo-5,8-dimethylthiochroman-4-one in 15 ml of THF, and the mixture was stirred at room temperature for 3 hours and then refluxed for 2 hours. To the reaction mixture was added 5% HCl, and the mixture was extracted with ethyl acetate. The resultant organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and the solvent was distilled off to give 5.2 g (yield 99%) of 6-bromo-4,5,8-trimethylthiochroman-4-ol.

reactant | magnesium methyl bromide | CBr.[Mg]
reactant | 6-bromo-5,8-dimethylthiochroman-4-one | 18.4 mmol, 5.0 g | BrC=1C(=C2C(CCSC2=C(C1)C)=O)C | C11H11BrOS
reactant | HCl | Cl | ClH
solvent | THF | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-bromo-4,5,8-trimethylthiochroman-4-ol | 5.2 g, yield 99% | BrC=1C(=C2C(CCSC2=C(C1)C)(O)C)C | C12H15BrOS
